* source B1
R_R4         0 N04913  30 TC=0,0 
R_R5         0 N04917  50 TC=0,0 
V_V1         N05315 0 100Vdc
R_R3         N04913 N04917  20 TC=0,0 
R_R1         N04913 N05322  24 TC=0,0 
R_R2         N04917 N05322  10 TC=0,0 
R_R6         N05322 N05315  13 TC=0,0 
